US07241805B2
A 250 ml flask equipped with overhead stirrer and gas inlet was charged with 34 g of bupropion base and 138 ml of isopropanol. The solution was maintained under stirring while 13 g of gaseous HBr was introduced through the gas inlet in a time of 20′ while the internal temperature of the mixture raises from 25 to 40oC. During the gas addition a heavy white precipitate formed. At the end of the gas addition the temperature of the mixture was raised to reflux (80oC), to get complete solution of the suspended solid. The temperature was then lowered to 25oC in 1 hour and further lowered to 0-5oC in 1 additional hour. The precipitate obtained was filtered and washed with 20 ml of cold isopropanol. The discharged wet solid was dried under vacuum (30 mmHg) in a static drier at 50oC for 16 hours. 34 g of bupropion hydrobromide form I were obtained.

reactant | bupropion | 34 g | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C | C13H18ClNO
reactant | HBr | 13 g | Br | BrH
solvent | isopropanol | 138 ml | C(C)(C)O | C3H8O
product | bupropion hydrobromide | 34 g | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C.Br | InChI=1S/C13H18ClNO.BrH/c1-9(15-13(2,3)4)12(16)10-6-5-7-11(14)8-10;/h5-9,15H,1-4H3;1H
